US06316482B1
To a solution of 2-chloro-4-nitro-1H-benzimidazole (300 mg) in N-methyl-2-pyrrolidone (4 ml) was added imidazole (517 mg) and the mixture was stirred at 80° C. for 8 hours. The reaction mixture was poured into brine and extracted with a mixture of chloroform and methanol. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of chloroform and methanol (100-0−30-1) to give 2-(1-imidazolyl)-4-nitro-1H-benzimidazole (175 mg).

reactant | 2-chloro-4-nitro-1H-benzimidazole | 300 mg | ClC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C7H4ClN3O2
reactant | imidazole | 517 mg | N1C=NC=C1 | C3H4N2
solvent | N-methyl-2-pyrrolidone | 4 ml | CN1C(CCC1)=O | C5H9NO
solvent | brine | [Cl-].[Na+].O
product | 2-(1-imidazolyl)-4-nitro-1H-benzimidazole | 175 mg | N1(C=NC=C1)C1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C10H7N5O2
